US08809382B2
Step 1 (2-Undec-1-enyl-1H-indole)
To a suspension of decyl-triphenyl-phosphonium bromide in THF was added NaHMDS in THF and the mixture was stirred for 30 minutes. A solution of 1H-indole-2-carbaldehyde was added to the reaction mixture and stirred for 3 hours. The reaction mixture was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | decyl-triphenyl-phosphonium bromide | [Br-].C(CCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1H-indole-2-carbaldehyde | N1C(=CC2=CC=CC=C12)C=O | C9H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Undec-1-enyl-1H-indole | C(=CCCCCCCCCC)C=1NC2=CC=CC=C2C1 | C19H27N
